US04801593
Cinnamic acid (30.0 g.), benzenethiol (24.0 g.) and 45% w/v hydrogen bromide in acetic acid (21.5 ml) were heated together at 100° for 7 hrs. The reaction mixture was diluted with water and steam distilled to remove unchanged thiol. The hot aqueous layer was decanted from the oily product, which was recrystallised from 60°-80° petrleum ether to give 3-phenyl-3-(phenylthio)propionic acid (36.7 g) m.pt. 85°-90°. A sample recrystallised again from 60°-80° petroleum ether had m.pt. 88°-90°.

reactant | Cinnamic acid | 30.0 g | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | benzenethiol | 24.0 g | C1(=CC=CC=C1)S | C6H6S
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 21.5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-phenyl-3-(phenylthio)propionic acid | 36.7 g | C1(=CC=CC=C1)C(CC(=O)O)SC1=CC=CC=C1 | C15H14O2S
